US05216159
To a mixture of 3-Hydroxy-1-methyl-1-azaspiro[4.5]decane-2,8-dione ethylene ketal (1.0 g), triethylamine (1.73 mL) and methylene chloride (10 mL) was added methanesulfonyl chloride (950 mg) dissolved in methylene chloride (5 mL) in a dropwise fashion at 0° C. After 30 min the reaction mixture was washed with water, the organic layer dried over magnesium sulfate and the solvent was removed in vacuo. The resulting residue was filtered through silica gel with ethyl acetate as the eluent to afford 3-Mesyloxy-1-methyl-1-azaspiro[4.5]decane-2,8-dione ethylene ketal as an oil.

reactant | 3-Hydroxy-1-methyl-1-azaspiro[4.5]decane-2,8-dione ethylene ketal | 1.0 g | C1COC2(N(C3(CC2O)CCC(CC3)=O)C)O1 | C12H19NO4
reactant | triethylamine | 1.73 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 950 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-Mesyloxy-1-methyl-1-azaspiro[4.5]decane-2,8-dione ethylene ketal | C1COC2(N(C3(CC2OS(=O)(=O)C)CCC(CC3)=O)C)O1 | C13H21NO6S
